US05677464
1-[(1R,2S)-2-(2-Fluorophenyl)-2,3-dihydroxy-1-methylpropyl]-3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2(1H,3H)-imidazolone (1.90 g) was dissolved in 30 ml of ethyl acetate, to which 0.69 g of methanesulfonyl chloride and 0.61 g of triethylamine were added dropwise with ice cooling. After stirring at 0° C. for 30 minutes, the reaction solution was washed with water (20 ml×2) and 10 ml of an aqueous solution of sodium chloride successively. The organic layer was dried over magnesium sulfate. The solvent was distilled off under reduced pressure to give 2.2 g of 1-[(1R,2S)-2-(2-fluorophenyl)-2-hydroxy-3-methanesulfonyloxy-1-methylpropyl]-3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2(1H,3H)-imidazolone as a colorless oil.

reactant | 1-[(1R,2S)-2-(2-Fluorophenyl)-2,3-dihydroxy-1-methylpropyl]-3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2(1H,3H)-imidazolone | 1.90 g | FC1=C(C=CC=C1)[C@]([C@@H](C)N1C(N(C=C1)C1=CC=C(C=C1)OCC(C(F)F)(F)F)=O)(CO)O | C22H21F5N2O4
reactant | methanesulfonyl chloride | 0.69 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.61 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 1-[(1R,2S)-2-(2-fluorophenyl)-2-hydroxy-3-methanesulfonyloxy-1-methylpropyl]-3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2(1H,3H)-imidazolone | 2.2 g | FC1=C(C=CC=C1)[C@]([C@@H](C)N1C(N(C=C1)C1=CC=C(C=C1)OCC(C(F)F)(F)F)=O)(COS(=O)(=O)C)O | C23H23F5N2O6S
